US05866594
Synthesis of methyl 3-(acetoxyiminomethyl)-4,7-dimethylindole-2-carboxylate (compound 51)
A solution of 0.8 g (3.3 mmol) of methyl 3-(hydroxyiminomethyl)-4,7-dimethylindole-2-carboxylate in 15 ml of anhydrous THF was cooled to 0° C., and then 0.5 ml (3.6 mmol) of triethylamine was added. While the reaction mixture was stirred at 0° C., a solution of 0.25 ml (3.6 mmol) of acetyl chloride in 5 ml of THF was added dropwise over a period of 15 minutes. The reaction mixture was stirred at room temperature for 1 hour and then poured into 100 ml of ice water. The crystals were separated by filtration and dried to provide 0.85 g of yellow crystals.

reactant | methyl 3-(hydroxyiminomethyl)-4,7-dimethylindole-2-carboxylate | 3.3 mmol, 0.8 g | ON=CC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C13H14N2O3
reactant | triethylamine | 3.6 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.6 mmol, 0.25 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl 3-(acetoxyiminomethyl)-4,7-dimethylindole-2-carboxylate | 0.85 g, Yield: quantitative | C(C)(=O)ON=CC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C15H16N2O4
